datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(Cc1ccccc1)[N+:21](C)(CCC#N)[H:20].O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2:10]>>CC(Cc1ccccc1)[N:21](C)CCC#N.O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2+:10][H:20] 10=20;20,21=21",
"COc1cccc(CCC(=O)[O-:10])c1.N#CC(C#N)=N[N:21](c1c(Cl)cccc1Cl)[H:20]>>COc1cccc(CCC(=O)[O:10][H:20])c1.N#CC(C#N)=N[N-:21]c1c(Cl)cccc1Cl 10=20;20,21=21",
"C[NH+](C)CCCCNc1cc[n:10]c2cccc([N+](=O)[O-])c12.Cc1ccc(/C=C/C(=O)C(=O)[O:21][H:20])cc1>>C[NH+](C)CCCCNc1cc[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.Cc1ccc(/C=C/C(=O)C(=O)[O-:21])cc1 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Br)cc2)CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Br)cc2)[H:20])CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC/C(NO)=[N:10]\O.Nc1ccc(S(=O)(=O)[N:21](c2ncccn2)[H:20])cc1>>CC/C(NO)=[N+:10](\O)[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ncccn2)cc1 10=20;20,21=21",
"C[C@@H]1CCCC[C@@H]1C(=O)[O:21][H:20].[NH3+]CCNC(=S)[S-:10]>>C[C@@H]1CCCC[C@@H]1C(=O)[O-:21].[NH3+]CCNC(=S)[S:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n:10]2.CCSC(C)(O)[O:21][H:20]>>CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n+:10]2[H:20].CCSC(C)(O)[O-:21] 10=20;20,21=21",
"CC(O)(C(=O)[O:21][H:20])c1ccccc1.COc1c[n:10]ccc1N>>CC(O)(C(=O)[O-:21])c1ccccc1.COc1c[n+:10]([H:20])ccc1N 10=20;20,21=21",
"C[N+](C)(C)CCc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)CCc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=[N+]([O-])c1ccc(Cl)cc1C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Clc1ccc(-c2ccc(Cl)c[n+:21]2[H:20])nc1.O=[N+]([O-])c1cccc(/C=N\[O-:10])c1>>Clc1ccc(-c2ccc(Cl)c[n:21]2)nc1.O=[N+]([O-])c1cccc(/C=N\[O:10][H:20])c1 10=20;20,21=21",
"CC1=CC=C([O-:10])C(=O)C=C1.CCC(CC)C(=O)[O:21][H:20]>>CC1=CC=C([O:10][H:20])C(=O)C=C1.CCC(CC)C(=O)[O-:21] 10=20;20,21=21",
"CC(C)[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>CC(C)[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].Cc1ccc([N+](C)(C)C)cc1[O:21][H:20]>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].Cc1ccc([N+](C)(C)C)cc1[O-:21] 10=20;20,21=21",
"O=Cc1ccc([O-:10])cc1Cl.[O-]c1nc(N[O:21][H:20])cc[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>O=Cc1ccc([O:10][H:20])cc1Cl.[O-]c1nc(N[O-:21])cc[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"Nc1sc(Cl)c[n:10]1.O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O:21][H:20]>>Nc1sc(Cl)c[n+:10]1[H:20].O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O-:21] 10=20;20,21=21",
"OCc1cc[n+:21]([H:20])cc1.c1ccc(Nc2nc[n:10]c3[nH]ncc23)cc1>>OCc1cc[n:21]cc1.c1ccc(Nc2nc[n+:10]([H:20])c3[nH]ncc23)cc1 10=20;20,21=21",
"N#Cc1ncnc2nc[n-:10]c12.c1ccc(C(CC[N+:21]2([H:20])CCOCC2)c2ccccc2)cc1>>N#Cc1ncnc2nc[n:10]([H:20])c12.c1ccc(C(CC[N:21]2CCOCC2)c2ccccc2)cc1 10=20;20,21=21",
"Cc1cc2ccccc2[n:10]c1.N#CC(C#N)=C(C#N)[N:21](c1cccc([N+](=O)[O-])c1)[H:20]>>Cc1cc2ccccc2[n+:10]([H:20])c1.N#CC(C#N)=C(C#N)[N-:21]c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"CC[NH+](CC)CC[N+:21](=C(c1ccccc1C)c1ccccc1C)[H:20].O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O-:10]>>CC[NH+](CC)CC[N:21]=C(c1ccccc1C)c1ccccc1C.O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(-c2cc(C)[n:10][nH]2)[nH]n1.O=C1C=CC(Br)=C([O:21][H:20])C=C1>>Cc1cc(-c2cc(C)[n+:10]([H:20])[nH]2)[nH]n1.O=C1C=CC(Br)=C([O-:21])C=C1 10=20;20,21=21",
"Cc1cccc(C)c1[N-:10]C(=S)c1ccccc1.O=C(/C=C/C(=O)[O:21][H:20])c1ccccc1>>Cc1cccc(C)c1[N:10](C(=S)c1ccccc1)[H:20].O=C(/C=C/C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].N#CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC[NH2+:10][H:20] 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2cncnc21.Nc1ccnc(-c2cc(N)cc[n:10]2)c1>>Cn1c[n:21]c2cncnc21.Nc1ccnc(-c2cc(N)cc[n+:10]2[H:20])c1 10=20;20,21=21",
"N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O-:10])ccc21.O=C1NC(C(=O)[O:21][H:20])CC1O>>N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O:10][H:20])ccc21.O=C1NC(C(=O)[O-:21])CC1O 10=20;20,21=21",
"CC=[O+:21][H:20].CCC(CC(C)C)O[O-:10]>>CC=[O:21].CCC(CC(C)C)O[O:10][H:20] 10=20;20,21=21",
"CC(/N=C1\C=CC=CN1C)=[O+:21]/[H:20].C[N+]1(CCCCCC(=O)[O-:10])CCCCC1>>CC(/N=C1\C=CC=CN1C)=[O:21].C[N+]1(CCCCCC(=O)[O:10][H:20])CCCCC1 10=20;20,21=21",
"Cc1c2[nH]c3ccccc3c2cc[n:10]1.c1ccc(Oc2cccc[n+:21]2[H:20])cc1>>Cc1c2[nH]c3ccccc3c2cc[n+:10]1[H:20].c1ccc(Oc2cccc[n:21]2)cc1 10=20;20,21=21",
